US09079866B2
5-{2′-[(5-Aminopyrimidin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine hydrochloride
To a solution of 5-{2′-[(5-aminopyrimidin-4-yl)sulfanyl]-3-fluorobiphenyl-4-yl}-pyrimidin-2-amine (200 mg, 0.51 mmol) in MeCN/DCM/H2O (5 mL/5 mL/5 mL) were added NaIO4 (326 mg, 1.50 mmol) and RuCl3 (16 mg, 0.075 mmol). The reaction mixture was stirred at rt for 10 hours then poured into water (50 mL) and extracted with EtOAc (30 mL×3). The combined organic extracts were concentrated and purified by HPLC to give the title compound as a white solid. MS (ESI): mass calcd. for C20H15FN6O2S, 422.10; m/z found, 423.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.57 (s, 2H), 8.30-8.25 (m, 2H), 8.22 (s, 1H), 7.83 (m, 1H), 7.77 (m, 1H), 7.44-7.33 (m, 2H), 6.88 (d, J=9.5, 2H), 6.29 (s, 2H).

reactant | 5-{2′-[(5-aminopyrimidin-4-yl)sulfanyl]-3-fluorobiphenyl-4-yl}-pyrimidin-2-amine | 0.51 mmol, 200 mg | NC=1C(=NC=NC1)SC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C20H15FN6S
reactant | water | 50 mL | O | H2O
reactant | MeCN DCM H2O | 5 mL | CC#N.C(Cl)Cl.O
product | 5-{2′-[(5-Aminopyrimidin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine hydrochloride | Cl.NC=1C(=NC=NC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | InChI=1S/C20H15FN6O2S.ClH/c21-16-7-12(5-6-14(16)13-8-25-20(23)26-9-13)15-3-1-2-4-18(15)30(28,29)19-17(22)10-24-11-27-19;/h1-11H,22H2,(H2,23,25,26);1H
